BCDto7
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 7:19:00 PM

*Add Node Bridge Data
ADVB1 [GND$DA B1$DA B2$DA B3$DA B4$DA B5$DA B6$DA B7$DA CP$DA DP$DA]
+ [0 B1 B2 B3 B4 B5 B6 B7 CP DP] dac_mod
ADVB2 [AX$DV BX$DV CX$DV DX$DV EX$DV FX$DV GX$DV N1$DV N10$DV N11$DV]
+ [AX BX CX DX EX FX GX N1 N10 N11] dav_mod
ADVB3 [N12$DV N13$DV N2$DV N3$DV N4$DV N5$DV N6$DV N7$DV N8$DV N9$DV]
+ [N12 N13 N2 N3 N4 N5 N6 N7 N8 N9] dav_mod
ADVB4 [0 CP VCC][GND$AD CP$AD VCC$AD] adc_mod
ADVB5 [VCC$DA][VCC] dac_mod
ADVB6 [QA$DV QB$DV QC$DV QD$DV][QA QB QC QD] dav_mod
.model adc_mod xadc
.model dac_mod xdac
.model dav_mod xdav

*Schematic Netlist:
XDS1 A B C D E F G DP VCC REDCA
Q1 C1 B1 0 2N4410
Q2 C2 B2 0 2N4410
Q3 C3 B3 0 2N4410
Q4 C4 B4 0 2N4410
Q5 C5 B5 0 2N4410
Q6 C6 B6 0 2N4410
Q7 C7 B7 0 2N4410
R1 C1 A 330
R2 C2 E 330
R3 C3 B 330
R4 C4 G 330
R5 C5 D 330
R6 C6 C 330
R7 C7 F 330
AU1 [VCC$AD GND$AD GND$AD GND$AD GND$AD GND$AD CP$AD QA$DV][VCC$DA GND$DA GND$DA
+ GND$DA GND$DA CP$DA QA$DV QD$DV QC$DV QB$DV QA$DV] 74LS90
AU2A [VCC$AD GND$AD QA$DV][VCC$DA QA$DV N12$DV] 74LS04
AU2B [VCC$AD GND$AD QB$DV][VCC$DA QB$DV N11$DV] 74LS04
AU2C [VCC$AD GND$AD QC$DV][VCC$DA QC$DV N13$DV] 74LS04
AU2D [VCC$AD GND$AD QD$DV][VCC$DA QD$DV N6$DV] 74LS04
AU3A [VCC$AD GND$AD QB$DV QA$DV][VCC$DA QB$DV QA$DV N1$DV] 74LS00
AU3B [VCC$AD GND$AD N11$DV N12$DV][VCC$DA N11$DV N12$DV N2$DV] 74LS00
AU3C [VCC$AD GND$AD QC$DV N11$DV][VCC$DA QC$DV N11$DV N3$DV] 74LS00
AU3D [VCC$AD GND$AD QC$DV N12$DV][VCC$DA QC$DV N12$DV N4$DV] 74LS00
AU4A [VCC$AD GND$AD N13$DV QB$DV][VCC$DA N13$DV QB$DV N5$DV] 74LS00
AU4B [VCC$AD GND$AD N12$DV QB$DV][VCC$DA N12$DV QB$DV N7$DV] 74LS00
AU4C [VCC$AD GND$AD N13$DV N12$DV][VCC$DA N13$DV N12$DV N8$DV] 74LS00
AU4D [VCC$AD GND$AD QC$DV QA$DV][VCC$DA QC$DV QA$DV N10$DV] 74LS00
AU5A [VCC$AD GND$AD QC$DV N11$DV QA$DV][VCC$DA QC$DV N11$DV QA$DV N9$DV] 74LS10
AU5B [VCC$AD GND$AD N1$DV N2$DV QC$DV][VCC$DA N1$DV N2$DV QC$DV AX$DV] 74LS10
AU5C [VCC$AD GND$AD QB$DV N12$DV N13$DV][VCC$DA QB$DV N12$DV N13$DV BX$DV] 74LS10
AU6A [VCC$AD GND$AD N2$DV N3$DV N4$DV N6$DV][VCC$DA N2$DV N3$DV N4$DV N6$DV
+ EX$DV] 74LS20
AU6B [VCC$AD GND$AD N3$DV N5$DV N7$DV N6$DV][VCC$DA N3$DV N5$DV N7$DV N6$DV
+ GX$DV] 74LS20
AU7A [VCC$AD GND$AD N8$DV N6$DV N11$DV N10$DV][VCC$DA N8$DV N6$DV N11$DV N10$DV
+ FX$DV] 74LS20
AU8A [VCC$AD GND$AD N7$DV N8$DV][VCC$DA N7$DV N8$DV DX$DV] 74LS00
AU9 [VCC$AD GND$AD N8$DV N7$DV N6$DV N5$DV N9$DV N9$DV N9$DV N9$DV][VCC$DA N8$DV
+ N7$DV N6$DV N5$DV N9$DV N9$DV N9$DV N9$DV CX$DV] 74LS30
AU10 [VCC$AD GND$AD GND$AD CP$AD GND$AD FX$DV CX$DV DX$DV GX$DV BX$DV EX$DV
+ AX$DV][VCC$DA GND$DA CP$DA GND$DA FX$DV CX$DV DX$DV GX$DV BX$DV EX$DV AX$DV
+ DP$DA B7$DA B6$DA B5$DA B4$DA B3$DA B2$DA B1$DA] 74LS373
VCC VCC 0 5V AC +5 0
VCP CP 0 DC 0 PULSE(0 5 0 1u 1u 500u 1000u) AC 1 0

.SAVE 0 A AX B B1 B2 B3 B4 B5 B6 B7 BX C C1 C2 C3 C4 C5 C6 C7 CP CX D DP DX E EX
.SAVE F FX G GX N1 N10 N11 N12 N13 N2 N3 N4 N5 N6 N7 N8 N9 QA QB QC QD VCC VCC#branch
.SAVE VCP#branch @VCC[z] @VCP[z] @Q1[ib] @Q1[ic] @Q1[ie] @Q2[ib] @Q2[ic] @Q2[ie]
.SAVE @Q3[ib] @Q3[ic] @Q3[ie] @Q4[ib] @Q4[ic] @Q4[ie] @Q5[ib] @Q5[ic] @Q5[ie] @Q6[ib]
.SAVE @Q6[ic] @Q6[ie] @Q7[ib] @Q7[ic] @Q7[ie] @R1[i] @R2[i] @R3[i] @R4[i] @R5[i]
.SAVE @R6[i] @R7[i] @Q1[p] @Q2[p] @Q3[p] @Q4[p] @Q5[p] @Q6[p] @Q7[p] @R1[p] @R2[p]
.SAVE @R3[p] @R4[p] @R5[p] @R6[p] @R7[p] @VCC[p] @VCP[p]

*PLOT TRAN -1 1 A=A A=B A=C A=CP A=D A=E A=F A=G A=QA A=QB A=QC A=QD

.OPTIONS METHOD=GEAR MAXORD=2
*Selected Circuit Analyses:
.TRAN 2E-5 0.01 0 2E-5

*Models and Subcircuit:
.SUBCKT REDCA 1 2 3 4 5 6 7 8 9
DA 9 1 LED1
DB 9 2 LED1
DC 9 3 LED1
DD 9 4 LED1
DE 9 5 LED1
DF 9 6 LED1
DG 9 7 LED1
DP 9 8 LED1
.MODEL LED1 D (IS=93.2P RS=42M N=3.73 BV=4 IBV=10U CJO=2.97P VJ=.75 M=.333
+ TT=4.32U)
.ENDS REDCA

.MODEL 2N4410 NPN (IS=25.4F NF=1 BF=260 VAF=161 IKF=0.15 ISE=12.6P NE=2 BR=4 NR=1
+ VAR=20 IKR=0.225 RE=0.206 RB=0.824 RC=82.4M XTB=1.5 CJE=60.3P VJE=1.1 MJE=0.5
+ CJC=34.7P VJC=0.3 MJC=0.3 TF=1.59N TR=1.1U)

.MODEL 74LS90 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS90
+ )

.MODEL 74LS04 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS04
+ )

.MODEL 74LS00 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS00
+ )

.MODEL 74LS10 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS10
+ )

.MODEL 74LS20 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS20
+ )

.MODEL 74LS30 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS30
+ )

.MODEL 74LS373 XSIMCODE(FILE="C:\Program Files\Altium\Phoenix\Library\Sim\LS.SCB" FUNC=LS373
+ )

.END
